US08034827B2
a) (4-Cyano-benzyl)-phosphonic acid diethyl ester
A mixture of 4-cyano-benzyl bromide (41.8 g, 0.213 mol) and triethyl phosphite (42 mL, 0.244 mol) was stirred in a flask equipped with a Dean-Stark trap at 150° C. for 6 h, then the reaction mixture was submitted to distillation in vacuo to yield 52.2 g (97%) of the title compound.

reactant | 4-cyano-benzyl bromide | 0.213 mol, 41.8 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | triethyl phosphite | 0.244 mol, 42 mL | P(OCC)(OCC)OCC | C6H15O3P
product | (4-Cyano-benzyl)-phosphonic acid diethyl ester | 52.2 g, 97% | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)C#N | C12H16NO3P
